US07432287B2
The compound of Production Example 122 was obtained as a colorless amorphous substance by the same method as in Production Example 2, a corresponding method, or a combination thereof with an ordinary method, using (2R)-1-(t-butyldimethylsiloxy)-2-hydroxypropane, 3-amino-1-methyl-1H-pyrazole and 3-(4-dimethylcarbamoyl-phenoxy)-5-hydroxy-benzoic acid methyl ester obtained by deprotection of the methoxymethyl group of 3-(4-dimethylcarbamoyl-phenoxy)-5-methoxymethoxy-benzoic acid methyl ester obtained by converting the formyl group of 3-(4-formyl-phenoxy)-5-methoxymethoxy-benzoic acid methyl ester obtained in the same manner as Production Example 1, using 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester and p-formylphenylboric acid, to carboxyl, followed by condensation with dimethylamine.

reactant | (2R)-1-(t-butyldimethylsiloxy)-2-hydroxypropane | O([Si](C)(C)C(C)(C)C)C[C@@H](C)O | C9H22O2Si
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 3-(4-dimethylcarbamoyl-phenoxy)-5-hydroxy-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)OC1=CC=C(C=C1)C(N(C)C)=O)=O | C17H17NO5
product | 3-(4-dimethylcarbamoyl-phenoxy)-5-methoxymethoxy-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OCOC)OC1=CC=C(C=C1)C(N(C)C)=O)=O | C19H21NO6
